US08207213B2
Ethyl {3-chloro-4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2 yl]phenyl}acetate
To a solution of ethyl(3-chloro-4-{4-(ethyloxy)-1,3-dioxo-9-[(phenylmethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate (1.75 g, 3.22 mmol) in DCM (40 ml), cooled to −78° C. under an atmosphere of argon, was added boron tribromide (0.31 ml, 3.22 mmol) drop wise. Stirred at −78° C. for 12 minutes. A further addition of boron tribromide (0.31 ml, 3.22 mmol) was made drop wise. The reaction mixture was quenched with water and warmed to room temperature. This was extracted twice with DCM using a hydrophobic frit. The organic phase was evaporated to an yellow solid. This was purified by chromatography on silica gel, eluting with ethyl acetate (0-60%) in hexane to give the title compound as a orange oily solid (0.920 g, 2.03 mmol). LC/MS: Rt=3.65, [MH]+ 454.

reactant | ethyl(3-chloro-4-{4-(ethyloxy)-1,3-dioxo-9-[(phenylmethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate | 3.22 mmol, 1.75 g | C(C)OC(CC1=CC(=C(C=C1)N1C(C=2C(=C3C(=C(C2C1=O)OCC1=CC=CC=C1)C=CC=C3)OCC)=O)Cl)=O | C31H26ClNO6
reactant | boron tribromide | 3.22 mmol, 0.31 ml | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 3.22 mmol, 0.31 ml | B(Br)(Br)Br | BBr3
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | Ethyl {3-chloro-4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2 yl]phenyl}acetate | 2.03 mmol, 0.920 g | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1=O)O)C=CC=C3)OCC)=O)CC(=O)OCC | C24H20ClNO6
